US05580872
8-(4-(1-piperidyl)-1-piperidyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid
A 70 mg sample of 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester, from Example 253i above, was dissolved in 2 mL of anhydrous acetonitrile, reacted with 4-(1-piperidyl)piperidine (70 mg, 0.4 mmol, Aldrich Chem. Co.), and carried forward as described in Example 253j-k to give the title product. MS 428 (M+H)+ ; 1H NMR (CDCl3) δ: 0.69 (m, 2H), 1.02 (m, 2H), 1.18 (m, 4H), 2.27 (n, 1H), 2.78 (s, 3H), 2.72 (m, 1H), 3.35 (m, 3H), 3.55 (m, 1H), 3.75 (m, 1H), 8.36 (s, 1H), 9.20 (d, 1H). Anal. Calcd for C24H30N3O3F.1.5H2O: C, 63.42; H, 7.32; N, 9.24; Found: C, 62.99; H, 7.04; N, 8.78.

reactant | 8-chloro-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1=CC(=C2C(=C(C(=CN2C1=O)F)Cl)C)C1CC1 | C16H15ClFNO3
reactant | 4-(1-piperidyl)piperidine | 0.4 mmol, 70 mg | N1(CCCCC1)C1CCNCC1 | C10H20N2
solvent | acetonitrile | 2 mL | C(C)#N | C2H3N
product | 8-(4-(1-piperidyl)-1-piperidyl)-1-cyclopropyl-7-fluoro-9-methyl-4-oxo-4H-quinolizine-3-carboxylic Acid | N1(CCCCC1)C1CCN(CC1)C=1C(=CN2C(C(=CC(=C2C1C)C1CC1)C(=O)O)=O)F | C24H30FN3O3
